US04275067
(Z)-(5R)-3-[2-(p-Acetamidophenylthio)ethylidene]-4-oxa-1-azabicyclo[3.2.0]heptan-7-one
(5R)-7-Oxo-3-vinyl-4-oxa-1-azabicyclo[3.2.0]hept-2-ene (2.6 mmole) and p-acetamidophenyl mercaptan (0.5 g) were converted into the title compound using the process described in Example 1. The title compound was obtained as a colourless gum (102 mg), [α]D25 =+39.3° (c 1.0, CHCl3), (Found: M+ ; 304.0896; C15H16N2O3S requires 304.0882). νmax (CHCl3): 3380, 3280, 1790, 1720, 1690 (sh), 1665, 1590, 1496 cm-1. δ(CDCl3): 2.08 (3H, s), 2.60-3.50 (5H, complex), 4.18 (1H, d, J 14 Hz), 4.35 (1H, t, J 7 Hz), 5.30 (1H, d, J 2 Hz), 7.10-7.40 (4H, complex), 7.80 (1H, br.s). m/e: 304 (M+, 12%), 138 (100), 96 (62).

reactant | (5R)-7-Oxo-3-vinyl-4-oxa-1-azabicyclo[3.2.0]hept-2-ene | 2.6 mmole | O=C1C[C@H]2OC(=CN12)C=C | C7H7NO2
reactant | p-acetamidophenyl mercaptan | 0.5 g | C(C)(=O)NC1=CC=C(C=C1)S | C8H9NOS
product | (Z)-(5R)-3-[2-(p-Acetamidophenylthio)ethylidene]-4-oxa-1-azabicyclo[3.2.0]heptan-7-one | C(C)(=O)NC1=CC=C(C=C1)SC\C=C/1\CN2C(C[C@H]2O1)=O | C15H16N2O3S
